US04610984
4-(4-Methoxybenzoyl)-piperazin-1-yl-acetic acid morpholide
The N-(4-methoxybenzoyl)-piperazine used as a starting substance was obtained as a viscous oil by reacting 1 mol of piperazine with 0.5 mol of anisic acid chloride in glacial acetic acid. The chloroacetic acid morpholide used as a starting substance was obtained as a colourless oil by reacting 2 mol of morpholine with 1 mol of chloroacetyl chloride in toluene.

reactant | N-(4-methoxybenzoyl)-piperazine | COC1=CC=C(C(=O)N2CCNCC2)C=C1 | C12H16N2O2
reactant | piperazine | 1 mol | N1CCNCC1 | C4H10N2
reactant | anisic acid chloride | 0.5 mol | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | chloroacetic acid morpholide | ClCC(=O)N1CCOCC1 | C6H10ClNO2
reactant | morpholine | 2 mol | N1CCOCC1 | C4H9NO
reactant | chloroacetyl chloride | 1 mol | ClCC(=O)Cl | C2H2Cl2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Methoxybenzoyl)-piperazin-1-yl-acetic acid morpholide | COC1=CC=C(C(=O)N2CCN(CC2)CC(=O)N2CCOCC2)C=C1 | C18H25N3O4
